US07399778B2
A. 1-(4-Fluorobenzyl)-1H-1,2,4-triazole
To a stirred solution of 1,2,4-triazole (0.803 g, 11.6 mmol) in THF (100 mL) at 0° C. was added 4-fluorobenzyl bromide (2.0 g, 10.6 mmol), then 1,8-diazabicyclo[5.4.0]undec-7-ene (1.9 mL, 12.7 mmol) and the mixture was slowly warmed to room temperature. The solution was concentrated in vacuo, then purified by column chromatography (SiO2, MeOH/EtOAc, 5:95) to yield a white solid in 68% yield.

reactant | 1,2,4-triazole | 11.6 mmol, 0.803 g | N1N=CN=C1 | C2H3N3
reactant | 4-fluorobenzyl bromide | 10.6 mmol, 2.0 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 12.7 mmol, 1.9 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 1-(4-Fluorobenzyl)-1H-1,2,4-triazole | 68% yield | FC1=CC=C(CN2N=CN=C2)C=C1 | C9H8FN3
